US07381746B2
7.3 μL of pyridine and 14 mg of 3,4-dichlorobenzoyl chloride were added to 17 mg of (1R,2R,3R,5R,6R)-3-amino-2-t-butoxycarbonylamino-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester dissolved in 0.17 mL of chloroform, and the mixture was stirred for 3 hours at room temperature. The reaction solution was concentrated under reduced pressure The residue was purified by column chromatography (silica gel: Wako gel C200 (made by Wako Pure Chemical Industries Ltd.), eluent: chloroform-ethanol=100:1), thereby yielding 21 mg of (1R,2R,3R,5R,6R)-2-t-butoxycarbonylamino-3-(3,4-dichlorobenzoylamino)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester.

reactant | pyridine | 7.3 μL | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dichlorobenzoyl chloride | 14 mg | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | (1R,2R,3R,5R,6R)-3-amino-2-t-butoxycarbonylamino-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 17 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1N)(C(=O)OCC)F)NC(=O)OC(C)(C)C | C17H27FN2O6
solvent | chloroform | 0.17 mL | C(Cl)(Cl)Cl | CHCl3
product | (1R,2R,3R,5R,6R)-2-t-butoxycarbonylamino-3-(3,4-dichlorobenzoylamino)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 21 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1NC(C1=CC(=C(C=C1)Cl)Cl)=O)(C(=O)OCC)F)NC(=O)OC(C)(C)C | C24H29Cl2FN2O7
